US04124639
Preparation of 4-Ethyl-N-(1-ethylpropyl)-α-methoxy-m-toluidine
A mixture of 10.0g of 2-ethyl-5-nitrobenzyl methyl ether, 10.38g of 3-pentanone, 0.23g of 2-naphthalene sulfonic acid, and 0.60g of 5% platinum on carbon catalyst was shaken under hydrogen for 2 hours at room temperature and for 4 hours at 48° C. to 60° C. The mixture was diluted with 200 ml of ether, filtered and the filtrate shaken with 2.5% aqueous sodium hydroxide, washed with water, filtered through sodium sulfate and stirred over magnesium sulfate. The filtered solution was concentrated under vacuum to yield 10.76 grams of an amber liquid, pure by glc and tlc analyses.

reactant | 2-ethyl-5-nitrobenzyl methyl ether | 10.0g | COCC1=C(C=CC(=C1)[N+](=O)[O-])CC | C10H13NO3
reactant | 3-pentanone | 10.38g | CCC(CC)=O | C5H10O
catalyst | platinum on carbon | 0.60g | [Pt] | Pt
solvent | ether | 200 ml | CCOCC | C4H10O
catalyst | 2-naphthalene sulfonic acid | 0.23g | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)O | C10H8O3S
product | 4-Ethyl-N-(1-ethylpropyl)-α-methoxy-m-toluidine | 10.76 grams | C(C)C1=C(C=C(NC(CC)CC)C=C1)COC | C15H25NO
